US06242470B1
N-(5-Hydroxymethyl-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (2.0 g) and 3-amino4-methylbenzyl alcohol (1.29 g). Silica gel chromatography, eluting with 5% ethylacetate in dichloromethane gave the title compound as a white solid (1.10 g).

reactant | 1-adamantaneacetyl chloride | 2.0 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 3-amino4-methylbenzyl alcohol | 1.29 g | NC=1C=C(CO)C=CC1C | C8H11NO
product | N-(5-Hydroxymethyl-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 1.10 g | OCC=1C=CC(=C(C1)NC(CC12CC3CC(CC(C1)C3)C2)=O)C | C20H27NO2
